US03968121
Following a procedure similar to that of Example 1D but using 63 g. of 1-(4-methoxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole and 18 g. of 10% palladium-on-charcoal in 600 ml. mesitylene (18 hours reflux) there was obtained, on recrystallization first from isopropyl alcohol and then from tetrahydrofuran-hexane, 58.5 g. of 1-(4-methoxyphenyl)-2-phenylindole; m.p. 141°-142°C.

reactant | 1-(4-methoxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole | COC1=CC=C(C=C1)N1C(=CC=2CCCCC12)C1=CC=CC=C1 | C21H21NO
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
